US06140332
Step 14.1: 6-Phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-ol
Under a protective gas, 2.30 g (10 mmol) of 2-amino-3-ethoxycarbonyl-5-phenyl-1H-pyrrole [for preparation see: Synthesis, 272 (1987)] in 20 ml of formamide, 10 ml of DMF and 5 ml of formic acid are heated at 150° C. for 24 hours. The reaction mixture is cooled and filtered and the residue is washed with isopropanol/hexane. Stirring in hot isopropanol yields the title compound; m.p.>300° C.; FAB-MS: (M+H)+ =212.

reactant | 2-amino-3-ethoxycarbonyl-5-phenyl-1H-pyrrole | 10 mmol, 2.30 g | NC=1NC(=CC1C(=O)OCC)C1=CC=CC=C1 | C13H14N2O2
reactant | formamide | 20 ml | C(=O)N | CH3NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | formic acid | 5 ml | C(=O)O | CH2O2
product | 6-Phenyl-7H-pyrrolo[2,3-d]pyrimidin-4-ol | C1(=CC=CC=C1)C1=CC2=C(N=CN=C2O)N1 | C12H9N3O
